US06927222B2
i) 2-[(5-Methyl-2-nitrophenoxy)methyl]oxirane
A mixture of 5-Methyl-2-nitrophenol (7.7 g, 50 mmol), potassium carbonate (13.8 g, 0.1 mmol) and epibromohydrine (8.25 mL, 0.1 mmol) was dissolved in DMF (100 mL) and stirred 2-3 h at 100° C. under an atmosphere of nitrogen. The mixture was diluted with ether (0.5 L) and extracted with water until pH=7. The organic phase was evaporated and the residue was purified by flash-chromatography on silica (DCM) to give the sub-title compound as a yellow solid (8.65 g, 83%).

reactant | 5-Methyl-2-nitrophenol | 50 mmol, 7.7 g | CC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO3
reactant | potassium carbonate | 0.1 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | 0.5 L | CCOCC | C4H10O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | epibromohydrine | 0.1 mmol, 8.25 mL | C(Br)C1CO1 | C3H5BrO
product | 2-[(5-Methyl-2-nitrophenoxy)methyl]oxirane | 8.65 g, 83% | CC=1C=CC(=C(OCC2OC2)C1)[N+](=O)[O-] | C10H11NO4
